* Z:\home\porcaontas\Uni\MEEC\SM1\EMS\Pratica\FinalLab\voice-detector\ltspice\sallen-key.asc
V1 Vcc 0 9
V2 Vin 0 4.5 AC 1 0
R1 N009 Vin 10k
R2 N004 N009 220
C1 0 N009 10n
C2 N010 N009 10n
R3 N010 0 1Meg
R4 N005 N004 68k
R5 N001 0 470
R6 N002 N001 2.7k
R7 N002 N005 100k
R8 0 N006 39k
C3 0 N005 10n
C4 N006 N005 10n
R9 N007 N002 6.8k
R10 N003 0 470
R11 Vout N003 2.7k
R12 Vout N007 10k
R13 0 N008 3.9k
C5 0 N007 10n
C6 N008 N007 10n
XU1 N010 N004 Vcc 0 N004 level2 Avol=200k GBW=2.5Meg Slew=1.6Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 N006 N001 Vcc 0 N002 level2 Avol=200k GBW=2.5Meg Slew=1.6Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N008 N003 Vcc 0 Vout level2 Avol=200k GBW=2.5Meg Slew=1.6Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
* .tran 10m
.lib LM324.ti.lib
.lib tl084.txt
.ac dec 1k 1 100k
.lib UniversalOpAmp2.lib
.backanno
.end
